US06005103
4-[5-(1-Cyclopentylthio-3-methylbutyl)-4-hydroxy-6-oxo-6H-pyran-2-yl]benzoic acid ethyl ester (±)
The title compound was prepared by Method C using 4-hydroxy-6-(4'-carbethoxyphenyl)-2H-pyran-2-one (1.50 g, 5.77 mmol), ethanol (15 mL), isovalaraldehyde (0.497 g, 5.77 mmol), cyclopentylthiol (1.18 g, 11.54 mmol), piperidine (1.0 mL), acetic acid (1.0 mL). m.p. 174-176° C; 1H NMR (400 MHz, DMSO-d6) δ1.05-0.72 (m, 10H), 1.81-1.14(m, 7H), 2.13-1.81(m, 3H), 3.04 (t, 1H), 4.22 (m, 1H), 4.36 (q, 2H), 6.8 (s, 1H), 7.90 (d, 1H), 7.97 (q, 1H), 8.15 (m, 2H).

reactant | 4-hydroxy-6-(4'-carbethoxyphenyl)-2H-pyran-2-one | 5.77 mmol, 1.50 g | OC1=CC(OC(=C1)C1=CC=C(C=C1)C(=O)OCC)=O | C14H12O5
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | cyclopentylthiol | 11.54 mmol, 1.18 g | C1CCC(C1)S | C5H10S
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 4-[5-(1-Cyclopentylthio-3-methylbutyl)-4-hydroxy-6-oxo-6H-pyran-2-yl]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C=1OC(C(=C(C1)O)C(CC(C)C)SC1CCCC1)=O)=O | C24H30O5S
